2195-11-10 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Tachycardia: HR to 120
s - increased metoprolol 5mg IV q4hr to 10mg
   q4;
   -Given 500cc NS bolus at 1030 and increased D51/4NS from 70 to 125cc/hr
   -Vent settings changed to MMV secondary to having apneic episodes on
   PSV
   -No new recs from ENT
   -Tmax to 100.8 yest am; switched Clindamycin to unasyn 3gm IV q6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2195-11-9**] 01:00 PM
   Ampicillin - [**2195-11-10**] 02:37 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Metoprolol - [**2195-11-10**] 02:36 AM
   Famotidine (Pepcid) - [**2195-11-10**] 02:37 AM
   Other medications:
   Changes to medical and family history: Spoke with wife. Pt had multiple
   day hx of dysphagia. Subsequent decreased oral intake. Pt was rubbing
   his throat consistently prior to his flight and while on the plane.
   Developed ecchymoses on his flank in the setting of an itch he had on
   his flank this week. At shellfish earlier this week. No prior hx of
   shellfish allergies. Had melon on multiple occasions this week
   (although no prior allergies to melon).  No recent dental work.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-10**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98
   HR: 98 (98 - 128) bpm
   BP: 108/66(77) {107/57(69) - 130/76(85)} mmHg
   RR: 14 (7 - 15) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 82.6 kg
             Total In:
                                                                  2,788 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                  2,788 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    245 mL
   Urine:
                                                                  1,500 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,288 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 905 (760 - 1,222) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 5
   PIP: 24 cmH2O
   SpO2: 96%
   ABG: 7.33/48/162/25/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Gen: Intubated, Sedation, Arousable and responding to commands
   appropriately
   HEENT: PEERL, EOMI, R Nare dried blood, Subglottal ecchymosis
   NECK: Full. Mild ecchymosis. No appreciatble LAD
   Resp: CTAB
   Card: S1S2 No MRG
   Abd: Soft NT ND BS+
   Extr: Multiple ecchymoses, 2+ DP
   Labs / Radiology
   186 K/uL
   10.8 g/dL
   192 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   22 mg/dL
   108 mEq/L
   139 mEq/L
   29.2 %
   11.2 K/uL
        [image002.jpg]
                            [**2195-11-9**]  01:14 AM
                            [**2195-11-9**]  01:46 AM
                            [**2195-11-9**]  06:45 AM
                            [**2195-11-9**]  06:27 PM
                            [**2195-11-10**]  02:12 AM
   WBC
   7.2
   8.2
   11.2
   Hct
   30.8
   30.8
   29.2
   Plt
   164
   173
   186
   Cr
   0.8
   0.9
   TCO2
   26
   26
   Glucose
   162
   192
   Other labs: PT / PTT / INR:13.8/24.8/1.2, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P: 66y/o M with PMH of atrial fibrillation and L carotid stenting on
   coumadin admitted with sublingual bleed and respiratory distress.
   .
   # Sublingual and Neck Swelling
 Pt remains intubated for airway
   protection. + Neck and soft tissue swelling per CT neck. Etiology
   remains unclear however was in the setting of supra-therapeutic INR and
   clinical hx of dysphagia prior to the respiratory distress.
   Differential Diagnoses includes hematoma vs angioedema vs abcess.
   -          ENT to follow-up this afternoon, will discuss with ENT
   regarding laryngoscope and/or further imaging modalities
   -          Will also speak with radiology regarding optimal imaging
   studies in the setting of intubation
   -          Keeping pt intubated for airway protection
   -          Securing NT tube in setting of difficult airway
   -          Continue decadron, benadyl, h2 blocker
   # Fever: Pt spiked to 100.8 overnight. BCx and Ucx pending. L lung
   fields appear slightly more opacified vs yesterday. Switched from
   Clindamycin to Unasyn overnight to cover for potential nasopharyngeal
   flora infection. Increase in WBC overnight from 8K to 11K in setting of
   steroids. AVSS otherwise.
   - Cont Unasyn for 5 day course empirically
   - Follow fever curve
   - Serial CXRs
   # Previously Supratherapuetic INR
 Etiology remains unclear, although
   further hx from wife indicated that pt had decreased PO the week prior
   to admission in the setting of dysphagia. Now with subtherapeutic INR.
   Multi-ecchymoses on extremities that the wife stated occurred following
   intubation in the E.D.
   - Holding Coumadin
   - Daily Coags
   .
   # Chronic Atrial fibrillation - Holding coumadin per above. Rate
   controlled on IV Metoprolol
   - Cont IV Metoprolol
   .
   # Peripheral vascular disease - hold ASA in setting of bleed and airway
   compromise
   .
   # Hypertension - Holding verapamil, atenolol and lisinopril
   .
   # Hyperlipidemia - Cont statin
   .
   # FEN - NPO for now. Not currently receiving nutrition. Will discuss
   with ENT if and when pt should have NG/OG placed/
   -  Cont D5
 @75 cc/hr.
   # PPX - Pneumoboots,
   # Access - 2 PIV
   # Code
 FULL
   # Comm: Wife
   # Dispo - ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-9**] 12:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-11-10 13:24:00 Physician Attending Progress Note
Chief Complaint: Upper airway obstruction.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Nasotracheal intubation
   (sutured in place).
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2195-11-9**] 01:00 PM
   Ampicillin - [**2195-11-9**] 02:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2195-11-10**] 08:09 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-11-10**] 02:37 AM
   Metoprolol - [**2195-11-10**] 10:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-11-10**] 01:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 103 (94 - 128) bpm
   BP: 106/57(69) {97/53(64) - 121/76(85)} mmHg
   RR: 14 (7 - 17) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 82.6 kg
             Total In:
                                                                  2,788 mL
                                                                  1,820 mL
   PO:
             TF:
   IVF:
                                                                  2,788 mL
                                                                  1,820 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    497 mL
   Urine:
                                                                  1,500 mL
                                                                    497 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,288 mL
                                                                  1,323 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 785 (778 - 1,222) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 5
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.33/48/162/25/-1
   Ve: 6.1 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   186 K/uL
   192 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   22 mg/dL
   108 mEq/L
   139 mEq/L
   29.2 %
   11.2 K/uL
        [image002.jpg]
                            [**2195-11-9**]  01:14 AM
                            [**2195-11-9**]  01:46 AM
                            [**2195-11-9**]  06:45 AM
                            [**2195-11-9**]  06:27 PM
                            [**2195-11-10**]  02:12 AM
   WBC
   7.2
   8.2
   11.2
   Hct
   30.8
   30.8
   29.2
   Plt
   164
   173
   186
   Cr
   0.8
   0.9
   TCO2
   26
   26
   Glucose
   162
   192
   Other labs: PT / PTT / INR:13.8/24.8/1.2, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Upper airway obstruction, subacute.
   RESPIRATORY FAILURE -- attributed to upper airway obstruction.
   Maintain nasotracheal tube (NTT), mechanical ventilation.  ENT to
   evaluate.  Consider repeat imaging to better visualize
   UPPER AIRWAY OBSTRUCTION -- description suggests angioedema
   (supraglottic swelling).  With elevated INR, concern for possible
   hematoma to upper airway (extrinsic compression).  [**Month (only) 60**] be allergic
   (shellfish, medication, environmental, viral), with continued
   ELEVATED INR -- unclear etiology.  Stable INR per spouse.  Easy
   bruising recently consistent with elevated INR.  Responded to VitK
   alone.
   AFIB -- good rate control.  Monitor.  Remain off coumadin pending
   evaluation.
   FEVER -- low grade.  Possible related to ENT soft tissue infection or
   dental infection (abscess) --> empirical antibiotics, further imaging
   (including Water's view to r/o dental abscess)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-9**] 12:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2195-11-11 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Given 500cc NS bolus for SBP 80s-90s with increase to 100s
   Per conversation with ENT Attg, mouth exam looks good, planned
   extubation today. Underlying etiology still unclear although reviewed
   studies with Neurorads. No further imaging recommended and would avoid
   NGT/OGT for now given likely extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2195-11-9**] 01:00 PM
   Ampicillin - [**2195-11-9**] 02:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2195-11-11**] 02:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Metoprolol - [**2195-11-11**] 02:00 AM
   Famotidine (Pepcid) - [**2195-11-11**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-11**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 111 (94 - 127) bpm
   BP: 106/59(71) {87/45(57) - 121/73(82)} mmHg
   RR: 13 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.6 kg (admission): 82.6 kg
             Total In:
                                                                  3,316 mL
                                                                    589 mL
   PO:
             TF:
   IVF:
                                                                  3,316 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                    962 mL
                                                                    297 mL
   Urine:
                                                                    962 mL
                                                                    297 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,354 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 917 (56 - 1,003) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 6.1 L/min
   Physical Examination
   Gen: Intubated, Sedation, Arousable and responding to commands
   appropriately
   HEENT: PEERL, EOMI, R Nare dried blood, Subglottal ecchymosis
   NECK: Full. Mild ecchymosis. No appreciatble LAD
   Resp: CTAB
   Card: S1S2 No MRG
   Abd: Soft NT ND BS+
   Extr: Multiple ecchymoses, 2+ DP
   Labs / Radiology
   187 K/uL
   9.9 g/dL
   153 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.5 mEq/L
   27 mg/dL
   111 mEq/L
   142 mEq/L
   27.4 %
   11.1 K/uL
        [image002.jpg]
                            [**2195-11-9**]  01:14 AM
                            [**2195-11-9**]  01:46 AM
                            [**2195-11-9**]  06:45 AM
                            [**2195-11-9**]  06:27 PM
                            [**2195-11-10**]  02:12 AM
                            [**2195-11-10**]  04:54 PM
                            [**2195-11-11**]  01:33 AM
   WBC
   7.2
   8.2
   11.2
   11.1
   Hct
   30.8
   30.8
   29.2
   29.7
   27.4
   Plt
   164
   173
   186
   187
   Cr
   0.8
   0.9
   0.9
   TCO2
   26
   26
   Glucose
   162
   192
   153
   Other labs: PT / PTT / INR:15.8/24.0/1.4, Ca++:8.2 mg/dL, Mg++:2.5
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: 66y/o M with PMH of atrial fibrillation and L carotid stenting on
   coumadin admitted with sublingual bleed and respiratory distress.
   .
   # Sublingual and Neck Swelling
 Pt remains intubated for airway
   protection. + Neck and soft tissue swelling per CT neck. Etiology
   remains unclear however was in the setting of supra-therapeutic INR and
   clinical hx of dysphagia prior to the respiratory distress.
   Differential Diagnoses includes hematoma vs angioedema vs abcess.
   -          ENT to follow-up this afternoon, will discuss with ENT
   regarding laryngoscope and/or further imaging modalities
   -          Will also speak with radiology regarding optimal imaging
   studies in the setting of intubation
   -          Keeping pt intubated for airway protection
   -          Securing NT tube in setting of difficult airway
   -          Continue decadron, benadyl, h2 blocker
   # Fever: Pt spiked to 100.8 overnight. BCx and Ucx pending. L lung
   fields appear slightly more opacified vs yesterday. Switched from
   Clindamycin to Unasyn overnight to cover for potential nasopharyngeal
   flora infection. Increase in WBC overnight from 8K to 11K in setting of
   steroids. AVSS otherwise.
   - Cont Unasyn for 5 day course empirically
   - Follow fever curve
   - Serial CXRs
   # Previously Supratherapuetic INR
 Etiology remains unclear, although
   further hx from wife indicated that pt had decreased PO the week prior
   to admission in the setting of dysphagia. Now with subtherapeutic INR.
   Multi-ecchymoses on extremities that the wife stated occurred following
   intubation in the E.D.
   - Holding Coumadin
   - Daily Coags
   .
   # Chronic Atrial fibrillation - Holding coumadin per above. Rate
   controlled on IV Metoprolol
   - Cont IV Metoprolol
   .
   # Peripheral vascular disease - hold ASA in setting of bleed and airway
   compromise
   .
   # Hypertension - Holding verapamil, atenolol and lisinopril
   .
   # Hyperlipidemia - Cont statin
   .
   # FEN - NPO for now. Not currently receiving nutrition. Will discuss
   with ENT if and when pt should have NG/OG placed/
   -  Cont D5
 @75 cc/hr.
   # PPX - Pneumoboots,
   # Access - 2 PIV
   # Code
 FULL
   # Comm: Wife
   # Dispo - ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-9**] 12:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-11-11 13:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Cuff leak present today.
   Awake, alert.  Reduced hearing acuity (chronic).
   Able to follow commands.
   Episode of AFIB with RVR
 responded to iv beta blocker (has not been
   receiving PO meds).
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2195-11-9**] 01:00 PM
   Ampicillin - [**2195-11-9**] 02:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2195-11-11**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-11-11**] 03:00 AM
   Metoprolol - [**2195-11-11**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-11-11**] 01:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 125 (103 - 128) bpm
   BP: 136/78(91) {87/45(57) - 136/78(91)} mmHg
   RR: 7 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.6 kg (admission): 82.6 kg
             Total In:
                                                                  3,316 mL
                                                                  1,352 mL
   PO:
             TF:
   IVF:
                                                                  3,316 mL
                                                                  1,352 mL
   Blood products:
   Total out:
                                                                    962 mL
                                                                    670 mL
   Urine:
                                                                    962 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,354 mL
                                                                    682 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,079 (56 - 1,079) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   187 K/uL
   153 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.5 mEq/L
   27 mg/dL
   111 mEq/L
   142 mEq/L
   27.4 %
   11.1 K/uL
        [image002.jpg]
                            [**2195-11-9**]  01:14 AM
                            [**2195-11-9**]  01:46 AM
                            [**2195-11-9**]  06:45 AM
                            [**2195-11-9**]  06:27 PM
                            [**2195-11-10**]  02:12 AM
                            [**2195-11-10**]  04:54 PM
                            [**2195-11-11**]  01:33 AM
   WBC
   7.2
   8.2
   11.2
   11.1
   Hct
   30.8
   30.8
   29.2
   29.7
   27.4
   Plt
   164
   173
   186
   187
   Cr
   0.8
   0.9
   0.9
   TCO2
   26
   26
   Glucose
   162
   192
   153
   Other labs: PT / PTT / INR:15.8/24.0/1.4, Ca++:8.2 mg/dL, Mg++:2.5
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Upper airway obstruction.
   RESPIRATORY FAILURE -- attributed predominately to upper airway
   obstruction.  Good progress.  Swelling resolving.  Cuff-leak present
   today (encouraging).
   UPPER AIRWAY OBSTRUCTION -- attributed to spontaneous hematoma.
   Resolving.
   NUTRITIONAL SUPPORT -- place NG tube, initiate TF.
   AFIB -- resume usual meds for rate control following placement of OG
   tube.
   FLUIDS -- euvolemic.  Monitor I/O.  Maintain balance.
   COAGULATION -- hold coumadin pending resolution of neck hematoma.
   Etiology for increased INR at time of admission  remains uncertain.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-9**] 12:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2195-11-12 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Clear by ENT for extubation
   SVT rate controlled with IV Metoprolol and Diltiazem
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2195-11-9**] 01:00 PM
   Ampicillin - [**2195-11-9**] 02:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2195-11-12**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Diltiazem - [**2195-11-11**] 02:39 PM
   Famotidine (Pepcid) - [**2195-11-12**] 02:00 AM
   Metoprolol - [**2195-11-12**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-12**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 115 (98 - 149) bpm
   BP: 135/73(86) {106/51(65) - 144/80(94)} mmHg
   RR: 8 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.2 kg (admission): 82.6 kg
   Height: 68 Inch
             Total In:
                                                                  2,537 mL
                                                                    637 mL
   PO:
             TF:
   IVF:
                                                                  2,537 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                  1,193 mL
                                                                    420 mL
   Urine:
                                                                  1,193 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,344 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,077 (353 - 1,079) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 9
   PIP: 10 cmH2O
   Plateau: 11 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 6.2 L/min
   Physical Examination
   Gen: Intubated, Sedation, Arousable and responding to commands
   appropriately
   HEENT: PEERL, EOMI, R Nare dried blood, Sublingual ecchymosis
   NECK: Full. Mild ecchymosis. Slightly decreased swelling since
   yesterday.  No appreciable LAD
   Resp: CTAB
   Card: S1S2 No MRG
   Abd: Soft NT ND BS+
   Extr: Multiple ecchymoses, 2+ DP
   Labs / Radiology
   172 K/uL
   10.2 g/dL
   156 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.4 mEq/L
   29 mg/dL
   111 mEq/L
   144 mEq/L
   27.7 %
   8.5 K/uL
        [image002.jpg]
                            [**2195-11-9**]  01:14 AM
                            [**2195-11-9**]  01:46 AM
                            [**2195-11-9**]  06:45 AM
                            [**2195-11-9**]  06:27 PM
                            [**2195-11-10**]  02:12 AM
                            [**2195-11-10**]  04:54 PM
                            [**2195-11-11**]  01:33 AM
                            [**2195-11-12**]  01:22 AM
   WBC
   7.2
   8.2
   11.2
   11.1
   8.5
   Hct
   30.8
   30.8
   29.2
   29.7
   27.4
   27.7
   Plt
   164
   173
   186
   187
   172
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   26
   26
   Glucose
   162
   192
   153
   156
   Other labs: PT / PTT / INR:15.8/24.0/1.4, Ca++:8.4 mg/dL, Mg++:2.7
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: 66y/o M with PMH of atrial fibrillation and L carotid stenting on
   coumadin admitted with sublingual bleed and respiratory distress.
   .
   # Sublingual and Neck Swelling
 Remains intubated for airway
   protection. Improved swelling since yesterday. Etiology remains
   unclear.  DDx: includes hematoma vs angioedema, much less likely abcess
   given no imaging evidence.
   -          ENT following and pt to be scoped today.
   -          No further imaging studies
   -          Pt intubated for airway protection, may extubated tomorrow
   -          NT tube secured
   -          Continue Decadron, benadyl, h2 blocker
   # Fever: Afrebile past 24 hrs. BCx and Ucx NGTD. Lung fields show
   improved mild opacities on L, questionable increased lung markings on R
   inferiorly. . WBC stable at 11K in setting of steroids. AVSS otherwise.
   - Cont Unasyn Day 3/ 5 day course empirically
   - Follow fever curve
   # Previously Supratherapuetic INR
 Etiology remains unclear. Now with
   subtherapeutic INR.  Ecchymoses improving.
   - Holding Coumadin
   - Daily Coags
   # AF with RVR: Pt not adequately rate controlled on current regimen
   while in hospital. Pt seen by own Cardiologist in house. Pt received
   Metoprolol 5mg x3 this AM, plus Dilt 10mg x2 today.  Will transition pt
   back to home doses once OG tube is placed.
   - Cont IV Metoprolol until OG is placed. Then restart
 daily dose of
   meds this afternoon, full dose in AM.
   # Peripheral vascular disease
 Holding ASA in setting of bleed
   .
   # Hypertension
 Currently holding verapamil, atenolol and lisinopril
   - Restart once pts OG tube placed
   .
   # Hyperlipidemia - Cont statin
   .
   # FEN - NPO for now will start nutrition once OG placed.
   -  Cont D5
 @75 cc/hr.
   # PPX - Pneumoboots
   # Access - 2 PIV
   # Code
 FULL
   # Comm: Wife
   # Dispo - ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-12**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-11-12 10:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Offers no new complaints.
   Experiencing tachycardia, AFIB with RVR requiring iv beta blocker
   agents with response.  This AM, increased heart rate with removal of
   sedation.  Unable to place OG tube.  Using iv boluses to control heart
   rate.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2195-11-9**] 01:00 PM
   Ampicillin - [**2195-11-9**] 02:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2195-11-12**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-11-12**] 02:00 AM
   Metoprolol - [**2195-11-12**] 06:00 AM
   Diltiazem - [**2195-11-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-11-12**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 141 (98 - 149) bpm
   BP: 155/74(93) {107/51(65) - 155/80(94)} mmHg
   RR: 15 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.2 kg (admission): 82.6 kg
   Height: 68 Inch
             Total In:
                                                                  2,537 mL
                                                                  1,068 mL
   PO:
             TF:
   IVF:
                                                                  2,537 mL
                                                                  1,068 mL
   Blood products:
   Total out:
                                                                  1,193 mL
                                                                    620 mL
   Urine:
                                                                  1,193 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,344 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 856 (353 - 1,077) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 9
   PIP: 10 cmH2O
   Plateau: 11 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   172 K/uL
   156 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.4 mEq/L
   29 mg/dL
   111 mEq/L
   144 mEq/L
   27.7 %
   8.5 K/uL
        [image002.jpg]
                            [**2195-11-9**]  01:14 AM
                            [**2195-11-9**]  01:46 AM
                            [**2195-11-9**]  06:45 AM
                            [**2195-11-9**]  06:27 PM
                            [**2195-11-10**]  02:12 AM
                            [**2195-11-10**]  04:54 PM
                            [**2195-11-11**]  01:33 AM
                            [**2195-11-12**]  01:22 AM
   WBC
   7.2
   8.2
   11.2
   11.1
   8.5
   Hct
   30.8
   30.8
   29.2
   29.7
   27.4
   27.7
   Plt
   164
   173
   186
   187
   172
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   26
   26
   Glucose
   162
   192
   153
   156
   Other labs: PT / PTT / INR:15.8/24.0/1.4, Ca++:8.4 mg/dL, Mg++:2.7
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Upper airway obstruction (neck swelling, hematoma)
   RESPIRATORY FAILURE -- intubated primarily for upper airway
   obstruction.  Obstruction resolving.  Cuff leak present consistently
   for past 2 days.  Plan to move to extubation trial (with anesthesiology
   in  presence and use of Cook catheter).
   UPPER AIRWAY OBSTRUCTION -- subungual hematoma and edemna (possible
   related to allergic reaction)
   A-FIB -- continue to use iv beta-blocker.  Hope to resume usual PO
   meds.  Hold anti-coagulation
   NUTIRTIONAL SUPPORT
 hope to initate PO once extubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-12**] 01:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Updated medical condition with wife and
   [**Name2 (NI) **]-in-law.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill